US06951879B2
According to the method in example 4, 6-(2-Bromo-ethoxy)-3-(4-bromo-phenyl)-benzo[d]isothiazole and pyrrolidine were converted to yield 3-(4-Bromo-phenyl)-6-(2-pyrrolidin-1-yl-ethoxy)-benzo[d]isothiazole, MS: 404 (MH+, 1Br).

reactant | 6-(2-Bromo-ethoxy)-3-(4-bromo-phenyl)-benzo[d]isothiazole | BrCCOC1=CC2=C(C(=NS2)C2=CC=C(C=C2)Br)C=C1 | C15H11Br2NOS
reactant | pyrrolidine | N1CCCC1 | C4H9N
product | 3-(4-Bromo-phenyl)-6-(2-pyrrolidin-1-yl-ethoxy)-benzo[d]isothiazole | BrC1=CC=C(C=C1)C1=NSC2=C1C=CC(=C2)OCCN2CCCC2 | C19H19BrN2OS
